US07834048B2
1.4 1-[(1R,5S,6R)-6-(4-Amino-phenyl)-3-aza-bicyclo[3.2.0]hept-3-yl]-propan-1-one
1.21 g of 1-((1R,5S,6R)-6-(4-nitro-phenyl)-3-aza-bicyclo[3.2.0]hept-3-yl)-propan-1-one (4.44 mmol) were dissolved in 50 ml of methanol, 8.0 g of stannous dichloride SnCl2×H2O (35.46 mmol) were added, and the reaction was stirred under refluxing conditions for 2 h. The solvent was evaporated and the residue portioned between 1 N aqueous sodium hydroxide and ethyl acetate. This mixture was filtered, the two phases were separated, and the aqueous layer was extracted with ethyl acetate and dichloromethane. The combined organic phases were dried over magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure to yield 0.94 g of the product as a mixture of 72% para and 28% ortho substituted product which was used in the next step without further separation.

reactant | 1-((1R,5S,6R)-6-(4-nitro-phenyl)-3-aza-bicyclo[3.2.0]hept-3-yl)-propan-1-one | 4.44 mmol, 1.21 g | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1[C@@H]2CN(C[C@@H]2C1)C(CC)=O | C15H18N2O3
reactant | H2O | 35.46 mmol | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 1-[(1R,5S,6R)-6-(4-Amino-phenyl)-3-aza-bicyclo[3.2.0]hept-3-yl]-propan-1-one | 0.94 g | NC1=CC=C(C=C1)[C@H]1[C@@H]2CN(C[C@@H]2C1)C(CC)=O | C15H20N2O
